US06995144B2
1-[1-(3-tert-Butoxy-2-pyrazinylmethyl)piperidin-4-yl]-2-(2-methylphenyl)ethanone
After suspending 150 mg of 2-(2-methylphenyl)-1-(piperidin-4-yl)ethanone hydrochloride in 3 ml of dichloromethane, 128 mg of 3-tert-butoxypyrazine-2-carboxaldehyde and 188 mg of sodium triacetoxyborohydride were added while stirring on ice, and the stirring was continued overnight at room temperature. A 1N sodium hydroxide solution was added to the reaction mixture to render it alkaline, and then extraction was performed with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure. The residue was purified by NH silica gel column chromatography (solvent: n-hexane/ethyl acetate) to obtain the title compound (153 mg, 68% yield).

reactant | 2-(2-methylphenyl)-1-(piperidin-4-yl)ethanone hydrochloride | 150 mg | Cl.CC1=C(C=CC=C1)CC(=O)C1CCNCC1
reactant | 3-tert-butoxypyrazine-2-carboxaldehyde | 128 mg | C(C)(C)(C)OC=1C(=NC=CN1)C=O | C9H12N2O2
reactant | sodium triacetoxyborohydride | 188 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 1-[1-(3-tert-Butoxy-2-pyrazinylmethyl)piperidin-4-yl]-2-(2-methylphenyl)ethanone | 153 mg, 68% yield | C(C)(C)(C)OC=1C(=NC=CN1)CN1CCC(CC1)C(CC1=C(C=CC=C1)C)=O | C23H31N3O2
